US07671074B2
N-(aminopyrrolidin-1-yl-methylene)-2-nitrobenzene-sulfonamide (27)
The compound of Example 27 was prepared according to the accompanying synthesis procedure from 0.5 ml of N-[(3,5-dimethylpyrazol-1-yl)-iminomethyl]-2-nitrobenzene-sulfonamide solution (0.2 M, acetonitrile) with 19 mg of methanesulfonic acid and 0.5 ml of pyrrolidine solution (1.0 M, acetonitrile) and filed in a substance databank. Calculated mol. wt. 298.32; found mol. wt. (M+H) 299.3; 596.8 (Dimer)

reactant | N-[(3,5-dimethylpyrazol-1-yl)-iminomethyl]-2-nitrobenzene-sulfonamide | 0.2 M, 0.5 ml | CC1=NN(C(=C1)C)C(NS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])=N | C12H13N5O4S
reactant | methanesulfonic acid | 19 mg | CS(=O)(=O)O | CH4O3S
reactant | pyrrolidine | 1.0 M, 0.5 ml | N1CCCC1 | C4H9N
product | N-(aminopyrrolidin-1-yl-methylene)-2-nitrobenzene-sulfonamide | NC(=NS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])N1CCCC1 | C11H14N4O4S
